US08084449B2
A mixture of N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide (610 mg, 0.925 mmol), 1,1-dimethylethyl (1R,4R)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (183 mg, 0.925 mmol), sodium triacetoxyborohydride (392 mg, 1.849 mmol) and acetic acid (0.064 mL, 1.109 mmol) in DCM (10 mL) was stirred at room temperature overnight. The reaction mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were concentrated under vacuum to give a crude residue. It was purified with Companion, eluting with 0 to 100% ethyl acetate in hexane to get rid of impurities and then 10% methanol in DCM to elute the product. The product fractions were combined and concentrated under vacuum to give 1,1-dimethylethyl (1S,4S)-5-[(5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-methyl-3-biphenylyl)methyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate as a solid. It was re-dissolved in 25% TFA in DCM (2 mL) and stirred at room temperature for 2 h. Solvent was evaporated under a stream of nitrogen and then the residue was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH, and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-({3′-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylmethyl]-6-methyl-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide as a solid (431 mg, 62.8%). LC-MS m/z 743 (M+H)+, 1.18 min (ret time).

reactant | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-2,6-pyridinedicarboxamide | 0.925 mmol, 610 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C38H41N7O4
reactant | 1,1-dimethylethyl (1R,4R)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.925 mmol, 183 mg | [C@H]12N(C[C@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | sodium triacetoxyborohydride | 1.849 mmol, 392 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.109 mmol, 0.064 mL | C(C)(=O)O | C2H4O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl (1S,4S)-5-[(5′-{[({6-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]-2-pyridinyl}carbonyl)amino]methyl}-2′-methyl-3-biphenylyl)methyl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=CC(=N2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2[C@@H]1CN([C@H](C2)C1)C(=O)OC(C)(C)C)C)CC | C48H59N9O5
